US07547680B2
3-(4-Acetoxybutoxy)-5-hydroxybenzaldehyde
3,5-Dihydroxybenzaldehyde (0.96 g) and potassium carbonate (1.44 g) were suspended in N,N-dimethylformamide (5 mL). To the mixture was added 4-bromobutyl acetate (1.49 g) under ice-cooling, and the mixture was stirred at room temperature for 16 hours. To the reaction mixture was added 1 mol/L hydrochloric acid, and the resulting mixture was extracted with diethyl ether. The organic layer was washed with a saturated aqueous sodium hydrogen carbonate solution and brine successively and dried over anhydrous magnesium sulfate. The filtrate was concentrated under reduced pressure, and the obtained residue was purified by column chromatography on silica gel (ethyl acetate/hexane=1/5) to give the title compound (0.57 g).

reactant | 3,5-Dihydroxybenzaldehyde | 0.96 g | OC=1C=C(C=O)C=C(C1)O | C7H6O3
reactant | potassium carbonate | 1.44 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-bromobutyl acetate | 1.49 g | C(C)(=O)OCCCCBr | C6H11BrO2
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 3-(4-Acetoxybutoxy)-5-hydroxybenzaldehyde | 0.57 g | C(C)(=O)OCCCCOC=1C=C(C=O)C=C(C1)O | C13H16O5
